US07312214B2
1-{4-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}-cyclopropanecarboxylic acid methoxy-methyl-amide
1-{4-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}cyclopropane carboxylic acid (1.12 g, 2.37 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.255 g, 2.61 mmol) were dissolved in DMF (20.0 mL) and DIEA (2.0 mL, 11.5 mmol) was added dropwise. 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.54 g, 2.8 mmol) was added and the reaction was allowed to proceed under nitrogen at rt for 12 h. The reaction was diluted with EtOAc, washed 1N HCl, brine, dried over Na2SO4, filtered and concentrated. The reaction was purified via flash chromatography (silica, 100% EtOAc, then 10% MeOH/CH2Cl2) to give the title compound. LC/MS (ESI+) 515.6 (M+H).

reactant | 1-{4-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}cyclopropane carboxylic acid | 2.37 mmol, 1.12 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C2(CC2)C(=O)O)=O)C(F)(F)F | C24H20F3N3O4
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.61 mmol, 0.255 g | Cl.CNOC
reactant | DIEA | 11.5 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 2.8 mmol, 0.54 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{4-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}-cyclopropanecarboxylic acid methoxy-methyl-amide | CON(C(=O)C1(CC1)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(F)(F)F)=O)C | C26H25F3N4O4
